US05646173
0.5 g of N-[7-chloro-2-(4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]-acetamide was heated to 140° for 22 hours under argon in 4.5 ml of ethylene glycol/water 2:1 in the presence of 0.25 g of potassium hydroxide. The mixture was left to cool and was treated with 40 ml of water and 10 ml of saturated sodium chloride solution. The mixture was extracted three times with diethyl ether. The combined extracts were washed once with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The crude product was dissolved in 30 ml of diethyl ether and added dropwise to a suspension of 208 mg of fumaric acid in 30 ml of diethyl ether. The solvent was removed in a vacuum and the residue was recrystallized from 75 ml of ethanol/ethyl acetate 3:2. 355 mg (58%) of 2-(7-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethylamine fumarate (1:1) with m.p. 176°-177° were obtained as white crystals.

reactant | N-[7-chloro-2-(4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]-acetamide | 0.5 g | ClC=1C=CC2=C(CCC=3C=CN(C23)CCNC(C)=O)C1 | C16H17ClN2O
reactant | potassium hydroxide | 0.25 g | [OH-].[K+]
reactant | water | 40 ml | O | H2O
reactant | sodium chloride | 10 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 4.5 ml | C(CO)O.O
product | 2-(7-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)-ethylamine fumarate | 355 mg, 58% | C(\C=C\C(=O)O)(=O)O.ClC=1C=CC2=C(CCC=3C=CN(C23)CCN)C1 | InChI=1S/C14H15ClN2.C4H4O4/c15-12-3-4-13-11(9-12)2-1-10-5-7-17(8-6-16)14(10)13;5-3(6)1-2-4(7)8/h3-5,7,9H,1-2,6,8,16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
